US08802688B2
Step 2: tert-butyl 2-(2-chloro-3-formylquinolin-6-yloxy)acetate
To a solution of 2-chloro-6-hydroxyquinoline-3-carbaldehyde (2.35 g, 11.3 mmol) in N,N-dimethylformamide (15 mL) was added tert-butyl 2-bromoacetate (2.0 mL, 13.6 mmol) and potassium carbonate (3.13 g, 22.6 mmol). The reaction was stirred at room temperature for 1.5 hours. The reaction was diluted with water (100 mL) and allowed to stir for 1 hour. The resulting solid was collected by filtration, washed with water, and dried under vacuum to give the title compound (3.62 g, 99%) as an off-white solid. +ESI (M+H) 322.1; 1H NMR (400 MHz, CDCl3, δ): 10.54 (s, 1 H), 8.60 (s, 1 H), 7.99 (d, J=9.36 Hz, 1 H), 7.59 (dd, J=9.17, 2.93 Hz, 1 H), 7.11 (d, J=2.73 Hz, 1 H), 4.65 (s, 2 H), 1.49 (s, 9 H).

reactant | 2-chloro-6-hydroxyquinoline-3-carbaldehyde | 11.3 mmol, 2.35 g | ClC1=NC2=CC=C(C=C2C=C1C=O)O | C10H6ClNO2
reactant | tert-butyl 2-bromoacetate | 13.6 mmol, 2.0 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 22.6 mmol, 3.13 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | tert-butyl 2-(2-chloro-3-formylquinolin-6-yloxy)acetate | 3.62 g, 99% | ClC1=NC2=CC=C(C=C2C=C1C=O)OCC(=O)OC(C)(C)C | C16H16ClNO4
